US04028084
(a) Diethyl 3-ethoxyallylidenemalonate
To a stirred, refluxing solution of 1.0 g. of freshly fused zinc chloride in 220 g. (1.0 mole) of 1,1,3,3-tetraethoxypropane and 200 g. (1.96 moles) of acetic anhydride is added dropwise during 3 hr. 10 min. 91 g. (0.57 mole) of diethyl malonate. After addition is complete, the reaction mixture is refluxed for one-half hour after which time the lower boiling components of the reaction mixture are removed by distillation up to a vapor temperature of 120° C. (pot 130° C.). An additional 50 ml. of acetic anhydride are added and reflux is continued for 16 hr. Again, low boilers are removed and the desired product is isolated from the residue by vacuum distillation. There is obtained 120 g. (87%) of product as a yellow oil: b.p. 110°-128°/0.1-1.7 mm. ν (film) 1720 (C=O) and 1610 cm.-1 (C=O); δ(TMS,CDCL3) 7.47, 7.13, 6.25 (s, s, t, 1 H each, olefinic protons), 3.84-4.6 (m, 6H, ethyl methylene) and 1.35 (overlapping triplets, 9H, ethyl methyls).

reactant | 1,1,3,3-tetraethoxypropane | 1.0 mole | C(C)OC(CC(OCC)OCC)OCC | C11H24O4
reactant | acetic anhydride | 1.96 moles | C(C)(=O)OC(C)=O | C4H6O3
reactant | diethyl malonate | 0.57 mole | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | Diethyl 3-ethoxyallylidenemalonate | C(C)OC=CC=C(C(=O)OCC)C(=O)OCC | C12H18O5
